US06642389B2
a] [rac]-3-{2,6-Dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-2-ethoxy-propionic acid methyl ester
To a solution of 30 mg of 3-{2,6-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-2Z-ethoxy-acrylic acid ethyl ester in 1.5 ml of methanol was subsequently added 1 mg of iodine and 17 mg of magnesium and stirring was continued for 3 h. A further portion of 67 mg of magnesium was added and stirring was continued for 1.5 h. The suspension was filtered, the filtrate evaporated and the residue separated on prep. HPLC (RP-18, CH3CN/H2O, gradient) to give 2 mg (7%) of the title compound as a white solid.

reactant | 3-{2,6-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-2Z-ethoxy-acrylic acid ethyl ester | 30 mg | C(C)OC(/C(=C/C1=C(C=C(C=C1C)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)/OCC)=O | C27H31NO5
reactant | iodine | 1 mg | II | I2
reactant | magnesium | 17 mg | [Mg] | Mg
reactant | magnesium | 67 mg | [Mg] | Mg
solvent | methanol | 1.5 ml | CO | CH4O
product | [rac]-3-{2,6-Dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-2-ethoxy-propionic acid methyl ester | 2 mg, 7% | COC(C(CC1=C(C=C(C=C1C)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)OCC)=O | C26H31NO5
